US05043348
1,2-Di-(2,5-dimethyl-3-formyl-pyrrol-1-yl)-ethane
8.7 ml (0.093 mol) of phosphorus oxychloride are slowly added dropwise to 7.2 ml (0.093 mol) of anhydrous dimethylformamide at 0° C. The mixture is stirred at 10° C. for 15 minutes, 10 ml of 1,2-dichloroethane are added, and 10 g (0.046 mol) of 1,2-di-(2,5-dimethyl-pyrrol-1-yl)-ethane in 40 ml of 1,2-dichloroethane are added dropwise at 5° C. After a reaction time of 15 hours at room temperature, 100 g of sodium acetate in 150 ml of water are added, the mixture is heated under reflux for 5 minutes, methylene chloride is added, the phases are separated, the organic phase is concentrated and the residue is recrystallized from isopropanol.

reactant | phosphorus oxychloride | 0.093 mol, 8.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 0.093 mol, 7.2 ml | CN(C=O)C | C3H7NO
reactant | 1,2-di-(2,5-dimethyl-pyrrol-1-yl)-ethane | 0.046 mol, 10 g | CC=1N(C(=CC1)C)CCN1C(=CC=C1C)C | C14H20N2
reactant | sodium acetate | 100 g | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
solvent | water | 150 ml | O | H2O
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,2-Di-(2,5-dimethyl-3-formyl-pyrrol-1-yl)-ethane | CC=1N(C(=CC1C=O)C)CCN1C(=C(C=C1C)C=O)C | C16H20N2O2
